US07915424B2
3-(3-Chlorophenylethynyl)-pyridine hydrochloride
Add triethylamine (0.55 mL, 3.92 mmol), copper (I) iodide (19 mg, 0.098 mmol) and bis(triphenylphosphine)palladium (II) dichloride (35 mg, 0.049 mmol) to a solution of 3-iodopyridine (200 mg, 0.97 mmol) and 1-chloro-3-ethynylbenzene, (prepared essentially as described in PREPARATION 12), (133.7 mg, 0.98 mmol) in ethyl acetate (1 mL). Stir under nitrogen at room temperature for 18 h, filter through diatomaceous earth, wash with ethyl acetate and dichloromethane, and concentrate. Purify the residue by silica gel chromatography, eluting with 100:0 to 0:100 hexanes:dichloromethane. Treat with a 2 M solution of hydrogen chloride in diethyl ether to give the title compound (202 mg, 83%).

reactant | triethylamine | 3.92 mmol, 0.55 mL | C(C)N(CC)CC | C6H15N
reactant | 3-iodopyridine | 0.97 mmol, 200 mg | IC=1C=NC=CC1 | C5H4IN
reactant | 1-chloro-3-ethynylbenzene | ClC1=CC(=CC=C1)C#C | C8H5Cl
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.098 mmol, 19 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 0.049 mmol, 35 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 3-(3-Chlorophenylethynyl)-pyridine hydrochloride | 202 mg, 83% | Cl.ClC=1C=C(C=CC1)C#CC=1C=NC=CC1 | InChI=1S/C13H8ClN.ClH/c14-13-5-1-3-11(9-13)6-7-12-4-2-8-15-10-12;/h1-5,8-10H;1H
